US06093753
Preparation of 2-naphthylethoxycarbonylmethylmethyl sulfonium hexafluorophosphate:
2-naphthylethoxycarbonylmethyl sulfide in an amount of 24.63 g and dimethyl sulfuric acid in an amount of 13.24 g were mixed and allowed to a reaction at 80° C. for 10 hours. The reacted-mixture was then dissolved into a mixed solution of distillated water in an amount of 300 ml and ethyl acetate in an amount of 100 ml and stirred. The aqueous layer resulted was taken out, mixed with potassium hexafluorophosphate in an amount of 18.41 g and ethyl acetate in an amount of 300 ml and then stirred. The ethyl acetate layer was then washed with 100 ml of distillated water twice and mixed with anhydrous magnesium sulfate to remove water remained in the ethyl acetate layer. After evaporating ethyl acetate from the ethyl acetate layer, the residue was allowed to dry at 40° C. under reduced pressure to obtain the objective compound. The yield was 36.4 g.

reactant | 2-naphthylethoxycarbonylmethyl sulfide | C1=C(C=CC2=CC=CC=C12)CCOC(=O)CSCC(=O)OCCC1=CC2=CC=CC=C2C=C1 | C28H26O4S
reactant | dimethyl sulfuric acid | COS(OC)(=O)=O | C2H6O4S
reactant | water | O | H2O
reactant | potassium hexafluorophosphate | F[P-](F)(F)(F)(F)F.[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-naphthylethoxycarbonylmethylmethyl sulfonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C1=C(C=CC2=CC=CC=C12)CCOC(=O)C[SH+]C | InChI=1S/C15H16O2S.F6P/c1-18-11-15(16)17-9-8-12-6-7-13-4-2-3-5-14(13)10-12;1-7(2,3,4,5)6/h2-7,10H,8-9,11H2,1H3;/q;-1/p+1
